US07514448B2
To 2-(3-methoxy-phenyl)-N-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide (1 mmol) in THF was added 1.2 mmol of PPh3, 1.2 mmol of 3-bromopropanol and 1.2 mmol of DIAD and the reaction mixture was stirred at room temperature for 16 h. The reaction mixture was cooled to 0° C. and 1.2 mmol of NaH was added and reaction mixture was stirred at 0° C. for 30 minutes. MeOH was added to quench reaction and the solvent evaporated. The residue was redissolved in EtOAc and the organic layer was washed with H2O and dried over Na2SO4. After removal of solvent, the final product was purified by preparative HPLC to afford 3-(3-methoxy-phenyl)-1-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-piperidin-2-one in 30% yield.

reactant | 2-(3-methoxy-phenyl)-N-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide | 1 mmol | COC=1C=C(C=CC1)CC(=O)NC=1SC=C(N1)C1=CNC2=NC=CC=C21 | C19H16N4O2S
reactant | PPh3 | 1.2 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-bromopropanol | 1.2 mmol | BrCCCO | C3H7BrO
reactant | DIAD | 1.2 mmol | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | NaH | 1.2 mmol | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 3-(3-methoxy-phenyl)-1-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-piperidin-2-one | 30% yield | COC=1C=C(C=CC1)C1C(N(CCC1)C=1SC=C(N1)C1=CNC2=NC=CC=C21)=O | C22H20N4O2S
